US05519138
a) 2-n-Butyl-8-methyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]quinazolin-4-one
Prepared analogously to Example 1a from 2-n-butyl-8-methyl-quinazolin-4(1H)-one and 4-(α-ethoxycarbonylbenzyloxy)benzylbromide.

reactant | 2-n-butyl-8-methyl-quinazolin-4(1H)-one | C(CCC)C=1NC2=C(C=CC=C2C(N1)=O)C | C13H16N2O
reactant | 4-(α-ethoxycarbonylbenzyloxy)benzylbromide | C(C)OC(=O)C(C1=CC=CC=C1)OC1=CC=C(CBr)C=C1 | C17H17BrO3
product | 2-n-Butyl-8-methyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]quinazolin-4-one | C(CCC)C1=NC2=C(C=CC=C2C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)=O)C | C30H32N2O4
